US07943650B2
A mixture of 1-bromo-4-(4-bromophenyl)-2-butanone (0.5 mmol) and imidazole (102 mg, 1.5 mmol) in dry N,N-dimethylformamide (2 mL) was stirred at room temperature under a nitrogen atmosphere for 1 h. The mixture was then diluted with ethyl acetate (15 mL), and the solution was washed with water (4×15 mL). The separated organic phase was dried over anhydrous Na2SO4, and then the solvent was removed under reduced pressure to afford a residue that was chromatographed on a silica gel column using ethyl acetate as mobile phase to give 4-(4-bromophenyl)-1-(1H-imidazol-1-yl)-2-butanone as a white solid (111 mg, 76%): mp 79-80° C., Rf=0.50 (ethyl acetate-methanol 4:1 v/v); 1H NMR (400 MHz, CDCl3): δ 2.70 (t, J=7.2 Hz, 2H), 2.83 (t, J=7.2 Hz, 2H), 4.65 (s, 2H), 6.81 (bs, 1H), 7.02 (d, J=7.6 Hz, 2H), 7.09 (s, 1H), 7.37-7.40 (m, 3H); 13C NMR (100 MHz, CDCl3): δ 28.6, 40.9, 55.7, 120.1, 120.4, 130.0, 131.8, 138.0, 139.1, 202.3; HRMS (EI) Calcd. for C13H13BrN2O: 292.0211 (M+). Found: 292.0219.

reactant | 1-bromo-4-(4-bromophenyl)-2-butanone | 0.5 mmol | BrCC(CCC1=CC=C(C=C1)Br)=O | C10H10Br2O
reactant | imidazole | 1.5 mmol, 102 mg | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromophenyl)-1-(1H-imidazol-1-yl)-2-butanone | 111 mg, 76% | BrC1=CC=C(C=C1)CCC(CN1C=NC=C1)=O | C13H13BrN2O
